US08314128B2
a. (1-Benzyloxycarbonylmethyl-cyclohexyl)-acetic acid
A mixture of 1,1-cyclohexanediacetic anhydride (5.0 g, 27 mmol), pyridine (2.2 mL, 27 mmol), and benzyl alcohol (2.8 mL, 27 mmol) and toluene (5.0 mL, 47 mmol) was stirred at 80° C. overnight. The reaction mixture was cooled to room temperature and partitioned between ethyl acetate and 1 N HCl. The organic layer was washed three times with 1 N HCl and brine. The organic extract was dried over sodium sulfate, filtered, and concentrated to dryness to yield the title compound (7.06 g, 89% yield) as a clear oil. 1H NMR (DMSO-d6, 400 mHz) δ (ppm): 11.96 (s, 1H), 7.32 (m, 5H), 5.03 (s, 2H), 2.52 (s, 2H), 2.34 (s, 2H), 1.40 (m, 10H).

reactant | 1,1-cyclohexanediacetic anhydride | 27 mmol, 5.0 g | C12(CCCCC1)CC(=O)OC(C2)=O | C10H14O3
reactant | pyridine | 27 mmol, 2.2 mL | N1=CC=CC=C1 | C5H5N
reactant | benzyl alcohol | 27 mmol, 2.8 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | toluene | 47 mmol, 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | (1-Benzyloxycarbonylmethyl-cyclohexyl)-acetic acid | 7.06 g, 89% yield | C(C1=CC=CC=C1)OC(=O)CC1(CCCCC1)CC(=O)O | C17H22O4
